US07119207B2
(2S,3S,6R), (2R,3R,6S), (2S,3S,6S), and (2R,3R,6R)-6-Methyl-2-phenyl-piperidine-3-carboxylic acid methyl ester
(A mixture of two diastereomers and their enantiomers.) To 2-(amino-phenyl-methyl)-5-bromo-hexanoic acid methyl ester in DMF was added Nal and NaHCO3 The resultant mixture was stirred in DMF at 100° C. for 1 hour, and then was cooled to room temperature and partitioned between ether and water. The organic layer was washed with brine, dried with MgSO4, filtered and concentrated. Silica gel chromatography (97:3 CHCl3/MeOH) gave 1.63 g (90%) of the the product as an inseparable mixture of two diastereomers. 1H NMR (400 MHz, CDCl3) δ 7.17–7.32 (comp, 10H, both diastereomers), 4.47 (d, J=5.0 Hz, 1H), 3.97 (d, J=3.5 Hz, 1H), 3.45 (s, 3H), 3.38 (s, 3H), 3.02–3.08 (m, 1H), 2.92–2.99 (m, 1H), 2.75–2.85 (comp, 2H), 2.0–2.2 (comp, 2H), 1.80–2.00 (comp, 3H), 1.40–1.60 (comp, 2H), 1.20–1.30 (m, 1H), 1.20 (d, J=6.4 Hz, 3H), 1.07 (d, J=6.4 Hz, 3H); Mass spectrum m/e calcd. for M+H=234.1. Found 234.2.

reactant | 2-(amino-phenyl-methyl)-5-bromo-hexanoic acid methyl ester | COC(C(CCC(C)Br)C(C1=CC=CC=C1)N)=O | C14H20BrNO2
reactant | Nal | N[C@@H](CC1=CC=C2C=CC=CC2=C1)C(=O)O | C13H13NO2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
product | (2R,3R,6R)-6-Methyl-2-phenyl-piperidine-3-carboxylic acid methyl ester | COC(=O)[C@H]1[C@@H](N[C@@H](CC1)C)C1=CC=CC=C1 | C14H19NO2
